US07888364B2
3.01 g of tert-butyl 4-(bromomethyl)-2-chlorobenzoate was reacted via Procedure O to give tert-butyl 2-chloro-4-(methylsulfonylmethyl)benzoate. 1.2 g of tert-butyl 2-chloro-4-(methylsulfonylmethyl)benzoate was treated with 10 mL of 4N HCl in Dioxane at 45° C. and concentrated upon completion to give crude 2-chloro-4-(methylsulfonylmethyl)benzoic acid. 775 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 1 g of 2-chloro-4-(methylsulfonylmethyl)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to give pure 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide. MS (Q1) 435 (M)+.

reactant | tert-butyl 2-chloro-4-(methylsulfonylmethyl)benzoate | 1.2 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)CS(=O)(=O)C | C13H17ClO4S
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | Dioxane | O1CCOCC1 | C4H8O2
product | 2-chloro-4-(methylsulfonylmethyl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)CS(=O)(=O)C | C9H9ClO4S
